US07622501B2
Step 5: 2,3-bis(nitrooxy)propyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate
To a 0° C. solution of 3.73 g of 2,3-bis(nitrooxy)propyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate in 150 mL of MeCN was added 5 mL of 70% PyHF. The resultant mixture was allowed to warm to rt and stirred for an additional 4 h. The reaction mixture was diluted with 600 mL of toluene and filtered through a plug of silica gel, eluting with EtOAc. The filtrate was concentrated and the resulting residue was further purified by flash chromatography over silica gel (10-50% EtOAc/hexane) to afford 3.1 g of the title compound along with a 20% impurity. 1H NMR of major compound (500 MHz, acetone-d6): δ 7.72 (d, 2H), 7.37 (d, 2H), 7.17-7.11 (m, 5H), 5.79-5.73 (m, 1H), 5.38 (s, 2H), 5.05 (dd, 1H), 4.87 (dd, 1H), 4.68-4.65 (m, 3H), 4.49 (dd, 1H), 4.15 (t, 1H), 3.05 (s, 3H).

reactant | 2,3-bis(nitrooxy)propyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 3.73 g | C(OCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C27H36N2O12SSi
solvent | MeCN | 150 mL | CC#N | C2H3N
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-bis(nitrooxy)propyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 3.1 g | C(OCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H22N2O12S
